US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}methanone
Following general procedure A-1, {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (56 mg, 0.120 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (52 mg, 0.180 mmol) to afford the desired product (10 mg, 15%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.46 (s, 1H), 8.22 (dd, J=8.8, 1.9 Hz, 2H), 8.02 (d, J=8.8 Hz, 2H), 7.90-7.85 (m, 1H), 7.66-7.59 (m, 1H), 7.58-7.53 (m, 1H), 7.47 (s, 1H), 7.42-7.36 (m, 1H), 7.19 (s, 2H), 3.72-3.63 (m, 2H), 3.45-3.37 (m, 2H), 3.18-3.04 (m, 4H), 2.92-2.84 (m, 1H), 2.20-2.08 (m, 2H), 2.08-1.97 (m, 2H), 1.31-1.13 (m, 4H); ESI MS m/z 546 [C31H29Cl2N3O2+H]+; HPLC 97.3% (AUC), tR=11.04 min.

reactant | {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.120 mmol, 56 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | C25H26BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 52 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}methanone | 10 mg, 15% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)CCN1CCCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C31H29Cl2N3O2
